US07776886B2
A sample of tert-butyl 4-cyano-4-(cyclopropylmethyl)piperidine-1-carboxylate (I-2, 3.6 g, 13.6 mmol) was treated with HCl (40 mL of a 4.0 M solution in dioxane) and stirred at room temperature for 2 h before being concentrated under reduced pressure to afford 4-(cyclopropylmethyl)-piperidine-4-carbonitrile hydrochloride (I-3, M+H+=165.1) which was used without further purification.

reactant | tert-butyl 4-cyano-4-(cyclopropylmethyl)piperidine-1-carboxylate | 13.6 mmol, 3.6 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1CC1 | C15H24N2O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(cyclopropylmethyl)-piperidine-4-carbonitrile hydrochloride | Cl.C1(CC1)CC1(CCNCC1)C#N | InChI=1S/C10H16N2.ClH/c11-8-10(7-9-1-2-9)3-5-12-6-4-10;/h9,12H,1-7H2;1H
